Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, fever, transaminitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of HTN, HLD, s/p ___ ___ who presents from 
___ with transaminitis, fever, abdominal pain, URI 
symptoms. Patient was in usual state of health until 5 days ago 
when he developed "flu-like symptoms." He has fevers, chills, 
cough, runny nose, nausea. He had 2 episodes of sharp epigastric 
abdominal pain that reminded him of the pain he had prior to 
having his gallbladder removed. He went to his PCP's office who 
thought he was mildly jaundiced and checked labs which were 
notable for elevated LFTs (ALT 159, AST 143, Tbili 1.6, dbili 
0.7, AP 79). He was referred to ___ for further 
evaluation. At ___, patient had temperature to 101. CXR 
negative for acute process. CT A/P also without acute process. 
Given elevated LFTs, abdominal pain and fever there was concern 
for biliary infection and patient was given a dose of 
cipro/flagyl and transferred to ___ for possible ERCP.

In the ___ ___, CT scan from ___ was reviewed with radiology 
and showed no CBD dilation, no intrahepatic dilation or 
pancreatic cysts or fluid per report. AST/ALT elevation 
consistent with OSH but tbili normal. There was felt to be no 
indication for ERCP based on these findings. Patient admitted 
for further evaluation.

On arrival, patient reports some low grade nausea but abdominal 
pain has improved. He feels much better and denies fever, 
chills, SOB, diarrhea, dysuria. He feels that he still has chest 
congestion but overall improved.

ROS: Per HPI, otherwise 10 point ROS negative
 
Past Medical History:
HTN
HLD
S/p ___ in ___ ___
GERD
 
Social History:
___
Family History:
Mother passed of heart disease. Father died of lung cancer.
 
Physical Exam:
Admission exam:
98.7PO 131 / 72 96 18 95 RA 
GEN: Well appearing male sitting in bed in NAD
HEENT: PERRL, sclera anicteric, MMM
CV: RRR, no MRG
Lungs: CTAB no wheezes or rales
ABD: Soft, NT, ND, +BS
Extrem: Warm, well perfused, no edema
Neuro: A&O x3, non-focal
Psych: Full range of affect
Skin: No rashes

Discharge exam:
T97.9 BP 112/66 P93 RR16 O2 sat 95%RA
GEN: Well appearing male sitting in bed in NAD
HEENT: PERRL, sclera anicteric, MMM
CV: RRR, no MRG
Lungs: CTAB no wheezes or rales
ABD: Soft, NT, ND, +BS
Extrem: Warm, well perfused, no edema
Neuro: A&O x3, non-focal
Psych: Full range of affect
Skin: No rashes
 
Pertinent Results:
___ 01:43AM BLOOD WBC-7.2 RBC-4.25* Hgb-12.8* Hct-38.6* 
MCV-91 MCH-30.1 MCHC-33.2 RDW-13.1 RDWSD-43.3 Plt ___
___ 01:43AM BLOOD Neuts-76.6* Lymphs-14.2* Monos-8.3 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-5.53 AbsLymp-1.03* 
AbsMono-0.60 AbsEos-0.01* AbsBaso-0.03
___ 01:43AM BLOOD ___ PTT-30.1 ___
___ 01:43AM BLOOD Glucose-123* UreaN-15 Creat-1.0 Na-137 
K-3.7 Cl-100 HCO3-25 AnGap-16
___ 01:43AM BLOOD ALT-151* AST-120* LD(LDH)-249 AlkPhos-83 
TotBili-0.9 DirBili-0.4* IndBili-0.5
___ 01:43AM BLOOD Albumin-3.8 Calcium-8.9 Phos-2.2* Mg-2.4
___ 01:49AM BLOOD Lactate-1.___/P:
1. No acute abnormality
2. Fatty liver infiltrate
3. No pancreatic abnormality
4. S/p ___

___ CXR:
No acute abnormality
___ 06:35AM BLOOD WBC-8.4 RBC-4.38* Hgb-12.8* Hct-39.5* 
MCV-90 MCH-29.2 MCHC-32.4 RDW-12.9 RDWSD-42.7 Plt ___
___ 06:35AM BLOOD Glucose-103* UreaN-15 Creat-1.0 Na-141 
K-4.1 Cl-102 HCO3-30 AnGap-13
___ 06:35AM BLOOD ALT-146* AST-94* AlkPhos-81 TotBili-0.6
___ 06:35AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.6
___ 01:43AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-NEGATIVE
___ 01:43AM BLOOD HCV Ab-Negative
___ 01:49AM BLOOD Lactate-1.2

Discharge Labs:

___ 06:35AM BLOOD WBC-8.4 RBC-4.38* Hgb-12.8* Hct-39.5* 
MCV-90 MCH-29.2 MCHC-32.4 RDW-12.9 RDWSD-42.7 Plt ___
___ 06:35AM BLOOD Glucose-103* UreaN-15 Creat-1.0 Na-141 
K-4.1 Cl-102 HCO3-30 AnGap-13
___ 06:35AM BLOOD ALT-146* AST-94* AlkPhos-81 TotBili-0.6
___ 06:35AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.6
___ 01:43AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-NEGATIVE
___ 01:43AM BLOOD HCV Ab-Negative
 
Brief Hospital Course:
___ with history of HTN, HLD, s/p ___ ___ who presents from 
___ with transaminitis, fever, abdominal pain, URI 
symptoms. 

# Transaminitis/Acute liver injury: Patient found to have 
elevated AST/ALT and minimally elevated tbili on outpatient labs 
in setting of abdominal pain, fevers, URI symptoms. Baseline 
normal LFTs in ___. In the setting of fever and abdominal 
pain, there was concern for cholangitis, however patient without 
leukocytosis, abdominal pain now resolved and CT A/P negative 
for signs of biliary obstruction or infection. Has URI symptoms 
so may have viral related hepatitis. Monospot negative. Drug 
related liver injury is possible. Only recent new med was 
gemfibrozil which can cause liver injury however was started 
last ___ so timing seems delayed. CT showed fatty infiltrate 
but given acute elevation less likely related. Received 
cipro/flagyl in ___ which were then stopped given lower suspicion 
for cholangitis and suspect viral URI. LFTs downtrended with 
supportive care. Will need LFTs rechecked at outpatient follow 
up. 

# ?Melena: patient c/o black stools on AM of discharge. Stool 
was guaiac negative and HCT remained stable while in patient.

# Fever: Patient endorses URI symptoms and cough that felt like 
the flu, now resolving. Likely viral URI/bronchitis. Monospot 
negative. CXR negative for pneumonia. UA negative. Lower 
suspicion for cholangitis as above. 101 at ___, Tmax at ___ 
100.6. Received cipro/flagyl in ___ which were then stopped and 
patient remained afebrile.  Blood cultures were negative at time 
of discharge.

# Abdominal Pain/Nausea: Patient had 2 transient episodes of 
sharp epigastric pain associated with nausea that reminded him 
of his prior pain prior to having his gallbladder removed. Pain 
now resolved, nausea improved. Lipase normal. CT A/P 
unremarkable. Possible gastritis v PUD. Continued home PPI.

# HLD: Hold atorvastatin, gemfibrozil given liver injury

# HTN: Continue atenolol

TRANSITIONAL ISSUES:
- Please recheck LFTs at f/u appointment.
- restart Atorvastatin, gemfibozil when LFTs normalize
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Omeprazole 20 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Finasteride 1 mg PO QHS 
5. Gemfibrozil 600 mg PO QHS 
6. PARoxetine 10 mg PO DAILY 
7. Atorvastatin 10 mg PO QPM 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Finasteride 1 mg PO QHS 
4. Omeprazole 20 mg PO BID 
5. PARoxetine 10 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transaminitis
Fever
Viral URI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with fever, abdominal pain, upper respiratory 
tract symptoms and elevated liver tests most consistent with a 
viral infection. Your symptoms improved with supportive care and 
your antibiotics were stopped. You can continue to take Tylenol 
as needed for fever, but if your fevers worsen (greater than 
101) or you have worsening upset stomach, nausea or vomiting you 
should be re-evaluated by a Physician.  It was a pleasure caring 
for you and we wish you a speedy recovery!
 
Followup Instructions:
___